US07884079B2
Preparation of glutamyl-4-aminopyridine Conjugate
A mixture of 4-aminopyridine (5 mmol) and glutamic acid (5 mmol) is added to 0.1M carbodiimide [N-ethyl-N′-(3-dimethylaminopropyl) carbodiimide or EDC] in distilled water adjusted to pH 4.5, such that the final volume is 200 ml. The reaction is performed for 24 hours at 4° C. The resulting glutamyl-4-aminopyridine conjugate is collected as an oil and purified to pharmaceutical purity.

reactant | 4-aminopyridine | 5 mmol | NC1=CC=NC=C1 | C5H6N2
reactant | glutamic acid | 5 mmol | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | carbodiimide | 0.1M | N=C=N | CH2N2
solvent | water | O | H2O
product | glutamyl-4-aminopyridine | N[C@@H](CCC(O)=O)C(=O)C1=NC=CC(=C1)N | C10H13N3O3
